US05292732
N-[2-(4,5-Dihydro-1H-benzo[g]indol-1-yl)ethyl]acetamide (5.0 g) was suspended in 60 ml of ethylene glycol and 25 ml of water under argon and treated with 5.0 g of powdered potassium hydroxide. The mixture was stirred at 120° C. for 18 hours, subsequently cooled and treated with 150 ml of 2N hydrochloric acid while cooling. The solution was washed with 200 ml of methylene chloride, the organic phase was extracted three times with 100 ml of 2N hydrochloric acid each time, the aqueous phases were combined and made strongly alkaline with 28% sodium hydroxide solution while cooling with ice. The aqueous solution was extracted once with 200 ml of methylene chloride and twice with 100 ml of methylene chloride each time, the organic phases were combined, dried with MgSO4 and freed from solvent. The residue, 4.0 g of brown oil, was chromatographed on 250 g of silica gel with methylene chloride/methanol mixtures (99:1 to 19:1) as the eluent. There were obtained 3.7 g (88%) of 1-(2-aminoethyl)-4,5-dihydro-1H-benzo[g]indole which was processed without further purification.

reactant | N-[2-(4,5-Dihydro-1H-benzo[g]indol-1-yl)ethyl]acetamide | 5.0 g | N1(C=CC=2CCC3=C(C12)C=CC=C3)CCNC(C)=O | C16H18N2O
reactant | water | 25 ml | O | H2O
reactant | potassium hydroxide | 5.0 g | [OH-].[K+]
reactant | hydrochloric acid | 2N, 150 ml | Cl | ClH
solvent | ethylene glycol | 60 ml | C(CO)O | C2H6O2
product | 1-(2-aminoethyl)-4,5-dihydro-1H-benzo[g]indole | 3.7 g, 88% | NCCN1C=CC=2CCC3=C(C12)C=CC=C3 | C14H16N2
